US04414216
A mixture of 3.1 g of 4-(4-fluorophenyl)-2-(bromomethyl)tetrahydrofuran, 3.5 g of 1-(4-piperidyl)-5-chloro-benzimidazolin-2-one, 2.5 g of sodium iodide and 2.0 g of potassium carbonate in 50 ml of dimethylformamide is heated with stirring at 60° C. for 24 hours. The reaction mixture is then poured into water and extracted with ethyl acetate. The extract is washed with water and dried over magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is purified by column chromatography on silica gel with chloroform eluant. The thus obtained oil is treated with maleic acid. The crystalline precipitate is collected by filtration and recrystallized from ethanol to give 1-[1-(4-(4-fluorophenyl)-tetrahydro-2-furylmethyl)-4-piperidyl]-5-chloro-benzimidazolin-2-one maleate, melting at 200°-201° C. with decomposition.

reactant | 4-(4-fluorophenyl)-2-(bromomethyl)tetrahydrofuran | 3.1 g | FC1=CC=C(C=C1)C1CC(OC1)CBr | C11H12BrFO
reactant | 1-(4-piperidyl)-5-chloro-benzimidazolin-2-one | 3.5 g | N1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O | C12H14ClN3O
reactant | sodium iodide | 2.5 g | [I-].[Na+]
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[1-(4-(4-fluorophenyl)-tetrahydro-2-furylmethyl)-4-piperidyl]-5-chloro-benzimidazolin-2-one maleate | C(\C=C/C(=O)O)(=O)O.FC1=CC=C(C=C1)C1CC(OC1)CN1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O | InChI=1S/C23H25ClFN3O2.C4H4O4/c24-17-3-6-22-21(12-17)26-23(29)28(22)19-7-9-27(10-8-19)13-20-11-16(14-30-20)15-1-4-18(25)5-2-15;5-3(6)1-2-4(7)8/h1-6,12,16,19-20H,7-11,13-14H2,(H,26,29);1-2H,(H,5,6)(H,7,8)/b;2-1-
